US05026715
A. 1-(2-Formylpyrrol-4-yl)-2-chloroethanone
A mixture of 35 g (0.37 mole) pyrrole-2-carboxaldehyde in 325 ml dichloroethane was stirred under nitrogen in a three-necked, one-liter, round-bottomed flask fitted with an overhead stirrer and addition funnel. To this was added, in portions over a one-hour period, 294 g (2.21 mole) aluminum chloride. After the addition was completed, the mixture was stirred at room temperature for 10 minutes, then 124.7 g (88 ml, 1.10 mole) of chloroacetyl chloride was added dropwise over a one-hour period. The mixture was stirred at room temperature for 16 hours, then carefully poured into one liter of ice-water. The resulting precipitate (purple) was collected, washed well with water, and dried in vacuo. The dry solid was placed in a Soxhlet extractor and extracted with ethyl acetate for 20 hours. Concentration of the ethyl acetate solution afforded 59.4 g (94%) of the title compound as a yellow-green solid; m.p. 178°-179° C. This intermediate was used immediately in the next step. An analytical sample could be prepared by recrystallization from acetone.

reactant | pyrrole-2-carboxaldehyde | 0.37 mole, 35 g | N1C(=CC=C1)C=O | C5H5NO
reactant | aluminum chloride | 2.21 mole, 294 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 1.10 mole, 88 ml, 124.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloroethane | 325 ml | ClC(C)Cl | C2H4Cl2
product | 1-(2-Formylpyrrol-4-yl)-2-chloroethanone | 59.4 g, 94% | C(=O)C=1NC=C(C1)C(CCl)=O | C7H6ClNO2
